* /home/mahimagoyen1996/eSim-2.3/library/SubcircuitLibrary/1_bit_FInal/1_bit_FInal.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sat 08 Oct 2022 10:29:13 PM IST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ dac_bridge_2		
U13  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U13-Pad3_ Net-_U13-Pad4_ dac_bridge_2		
U5  Net-_U10-Pad3_ Net-_U10-Pad4_ Net-_U13-Pad1_ Net-_U13-Pad2_ mahima_writer		
U9  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ adc_bridge_2		
M1  Net-_M1-Pad1_ q Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M13  Net-_M1-Pad1_ ren Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M5  Net-_M1-Pad3_ q Net-_M10-Pad1_ Net-_M10-Pad1_ mosfet_n		
M9  Net-_M10-Pad1_ ren GND GND mosfet_n		
M17  Net-_M17-Pad1_ Net-_M1-Pad3_ dout Net-_M1-Pad1_ mosfet_p		
M21  dout Net-_M1-Pad3_ GND GND mosfet_n		
v9  Net-_M1-Pad1_ GND DC		
v13  ren GND pulse		
v5  Net-_U10-Pad2_ GND pulse		
U21  dout plot_v1		
U17  q plot_v1		
U2  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ dac_bridge_2		
U14  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U13-Pad3_ Net-_U13-Pad4_ dac_bridge_2		
U6  Net-_U10-Pad3_ Net-_U10-Pad4_ Net-_U13-Pad1_ Net-_U13-Pad2_ mahima_writer		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ adc_bridge_2		
M2  Net-_M1-Pad1_ q Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M14  Net-_M1-Pad1_ ren Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M6  Net-_M1-Pad3_ q Net-_M10-Pad1_ Net-_M10-Pad1_ mosfet_n		
M10  Net-_M10-Pad1_ ren GND GND mosfet_n		
M18  Net-_M17-Pad1_ Net-_M1-Pad3_ dout Net-_M1-Pad1_ mosfet_p		
M22  dout Net-_M1-Pad3_ GND GND mosfet_n		
v10  Net-_M1-Pad1_ GND DC		
v14  ren GND pulse		
v6  Net-_U10-Pad2_ GND pulse		
U22  dout plot_v1		
U18  q plot_v1		
U3  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ dac_bridge_2		
U15  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U13-Pad3_ Net-_U13-Pad4_ dac_bridge_2		
U7  Net-_U10-Pad3_ Net-_U10-Pad4_ Net-_U13-Pad1_ Net-_U13-Pad2_ mahima_writer		
U11  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ adc_bridge_2		
M3  Net-_M1-Pad1_ q Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M15  Net-_M1-Pad1_ ren Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M7  Net-_M1-Pad3_ q Net-_M10-Pad1_ Net-_M10-Pad1_ mosfet_n		
M11  Net-_M10-Pad1_ ren GND GND mosfet_n		
M19  Net-_M17-Pad1_ Net-_M1-Pad3_ dout Net-_M1-Pad1_ mosfet_p		
M23  dout Net-_M1-Pad3_ GND GND mosfet_n		
v11  Net-_M1-Pad1_ GND DC		
v15  ren GND pulse		
v7  Net-_U10-Pad2_ GND pulse		
U23  dout plot_v1		
U19  q plot_v1		
U4  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ dac_bridge_2		
U16  Net-_U13-Pad1_ Net-_U13-Pad2_ Net-_U13-Pad3_ Net-_U13-Pad4_ dac_bridge_2		
U8  Net-_U10-Pad3_ Net-_U10-Pad4_ Net-_U13-Pad1_ Net-_U13-Pad2_ mahima_writer		
U12  Net-_U10-Pad1_ Net-_U10-Pad2_ Net-_U10-Pad3_ Net-_U10-Pad4_ adc_bridge_2		
M4  Net-_M1-Pad1_ q Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M16  Net-_M1-Pad1_ ren Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M8  Net-_M1-Pad3_ q Net-_M10-Pad1_ Net-_M10-Pad1_ mosfet_n		
M12  Net-_M10-Pad1_ ren GND GND mosfet_n		
M20  Net-_M17-Pad1_ Net-_M1-Pad3_ dout Net-_M1-Pad1_ mosfet_p		
M24  dout Net-_M1-Pad3_ GND GND mosfet_n		
v12  Net-_M1-Pad1_ GND DC		
v16  ren GND pulse		
v8  Net-_U10-Pad2_ GND pulse		
U24  dout plot_v1		
U20  q plot_v1		
X1  Net-_U10-Pad1_ Net-_U13-Pad3_ Net-_U13-Pad4_ q Mahima_6TFInalSRAM		
U25  Net-_U10-Pad2_ Net-_U10-Pad1_ ren dout PORT		
v4  Net-_U10-Pad1_ GND pulse		
v3  Net-_U10-Pad1_ GND pulse		
v2  Net-_U10-Pad1_ GND pulse		
v1  Net-_U10-Pad1_ GND pulse		

.end
