* /home/mahimagoyen1996/esim-2.3/library/subcircuitlibrary/1_bit_final/1_bit_final.cir

.include mahima_6t_ram.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dac_bridge_2
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ dac_bridge_2
* u5  net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad1_ net-_u13-pad2_ mahima_writer
* u9  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ adc_bridge_2
m1 net-_m1-pad1_ q net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m13 net-_m1-pad1_ ren net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m5 net-_m1-pad3_ q net-_m10-pad1_ net-_m10-pad1_ CMOSP W=360 L=180 M=1
m9 net-_m10-pad1_ ren gnd gnd CMOSN W=360 L=180 M=1
m17 net-_m17-pad1_ net-_m1-pad3_ dout net-_m1-pad1_ CMOSP W=100 L=180 M=1
m21 dout net-_m1-pad3_ gnd gnd CMOSN W=360 L=180 M=1
v9 net-_m1-pad1_ gnd  dc 1.8
v13  ren gnd pulse(0 1.8 5u 1p 1p 1u 2u)
v5  net-_u10-pad2_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
* u21  dout plot_v1
* u17  q plot_v1
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dac_bridge_2
* u14  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ dac_bridge_2
* u6  net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad1_ net-_u13-pad2_ mahima_writer
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ adc_bridge_2
m2 net-_m1-pad1_ q net-_m1-pad3_ net-_m1-pad1_ CMOSN W=100 L=180 M=1
m14 net-_m1-pad1_ ren net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m6 net-_m1-pad3_ q net-_m10-pad1_ net-_m10-pad1_ CMOSN W=360 L=180 M=1
m10 net-_m10-pad1_ ren gnd gnd CMOSN W=360 L=180 M=1
m18 net-_m17-pad1_ net-_m1-pad3_ dout net-_m1-pad1_ CMOSP W=100 L=180 M=1
m22 dout net-_m1-pad3_ gnd gnd CMOSN W=360 L=180 M=1
v10 net-_m1-pad1_ gnd  dc 1.9
v14  ren gnd pulse(0 1.8 0 5u 1p 1p 2p)
v6  net-_u10-pad2_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
* u22  dout plot_v1
* u18  q plot_v1
* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dac_bridge_2
* u15  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ dac_bridge_2
* u7  net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad1_ net-_u13-pad2_ mahima_writer
* u11  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ adc_bridge_2
m3 net-_m1-pad1_ q net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m15 net-_m1-pad1_ ren net-_m1-pad3_ net-_m1-pad1_ CMOSP W=180 L=180 M=1
m7 net-_m1-pad3_ q net-_m10-pad1_ net-_m10-pad1_ CMOSN W=180 L=180 M=1
m11 net-_m10-pad1_ ren gnd gnd CMOSN W=360 L=180 M=1
m19 net-_m17-pad1_ net-_m1-pad3_ dout net-_m1-pad1_ CMOSP W=180 L=180 M=1
m23 dout net-_m1-pad3_ gnd gnd CMOSN W=360 L=180 M=1
v11 net-_m1-pad1_ gnd  dc 1.8
v15  ren gnd pulse(0 1.8 5u 1p 1u 1u 2u)
v7  net-_u10-pad2_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
* u23  dout plot_v1
* u19  q plot_v1
* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ dac_bridge_2
* u16  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ net-_u13-pad4_ dac_bridge_2
* u8  net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad1_ net-_u13-pad2_ mahima_writer
* u12  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ adc_bridge_2
m4 net-_m1-pad1_ q net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m16 net-_m1-pad1_ ren net-_m1-pad3_ net-_m1-pad1_ CMOSP W=100 L=180 M=1
m8 net-_m1-pad3_ q net-_m10-pad1_ net-_m10-pad1_ CMOSN W=180 L=180 M=1
m12 net-_m10-pad1_ ren gnd gnd CMOSN W=180 L=180 M=1
m20 net-_m17-pad1_ net-_m1-pad3_ dout net-_m1-pad1_ CMOSP W=100 L=180 M=1
m24 dout net-_m1-pad3_ gnd gnd CMOSN W=360 L=180 M=1
v12 net-_m1-pad1_ gnd  dc 1.8
v16  ren gnd pulse(0 1.8 5u 1p 1u 1u 2u)
v8  net-_u10-pad2_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
* u24  dout plot_v1
* u20  q plot_v1
x1 net-_u10-pad1_ net-_u13-pad3_ net-_u13-pad4_ q mahima_6t_ram
* u25  net-_u10-pad2_ net-_u10-pad1_ ren dout port
v4  net-_u10-pad1_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
v3  net-_u10-pad1_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
v2  net-_u10-pad1_ gnd pulse(0 1.8 5u 1u 1p 1p 2p)
v1  net-_u10-pad1_ gnd pulse(0 1.8 5u 1p 1u 1u 2u)
a1 [net-_u1-pad1_ net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
a2 [net-_u13-pad1_ net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ ] u13
a3 [net-_u10-pad3_ ] [net-_u10-pad4_ ] [net-_u13-pad1_ ] [net-_u13-pad2_ ] u5
a4 [net-_u10-pad1_ net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ ] u9
a5 [net-_u1-pad1_ net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ ] u2
a6 [net-_u13-pad1_ net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ ] u14
a7 [net-_u10-pad3_ ] [net-_u10-pad4_ ] [net-_u13-pad1_ ] [net-_u13-pad2_ ] u6
a8 [net-_u10-pad1_ net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ ] u10
a9 [net-_u1-pad1_ net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ ] u3
a10 [net-_u13-pad1_ net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ ] u15
a11 [net-_u10-pad3_ ] [net-_u10-pad4_ ] [net-_u13-pad1_ ] [net-_u13-pad2_ ] u7
a12 [net-_u10-pad1_ net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ ] u11
a13 [net-_u1-pad1_ net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ ] u4
a14 [net-_u13-pad1_ net-_u13-pad2_ ] [net-_u13-pad3_ net-_u13-pad4_ ] u16
a15 [net-_u10-pad3_ ] [net-_u10-pad4_ ] [net-_u13-pad1_ ] [net-_u13-pad2_ ] u8
a16 [net-_u10-pad1_ net-_u10-pad2_ ] [net-_u10-pad3_ net-_u10-pad4_ ] u12
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             mahima_writer, NgSpice Name: mahima_writer
.model u5 mahima_writer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u14 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             mahima_writer, NgSpice Name: mahima_writer
.model u6 mahima_writer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u15 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             mahima_writer, NgSpice Name: mahima_writer
.model u7 mahima_writer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             mahima_writer, NgSpice Name: mahima_writer
.model u8 mahima_writer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-06 100e-06 0e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dout)
plot v(q)

.endc
.end
